US07741320B2
Step A: 2-cyclopropylamino-5-methoxybenzenesulphonamide
To a solution of 2-amino-5-methoxybenzenesulphonamide (4.9 mmol) in methanol (20 mL) there are added (1-ethoxycyclopropyloxy)trimethylsilane (4 mL) and glacial acetic acid (4 mL) and then heating at reflux is carried out for 18 hours. The mixture is then evaporated to dryness under reduced pressure. The oil obtained is taken up in water (30 mL) and extracted with chloroform (3×30 mL). The organic phases are collected and dried over anhydrous MgSO4. After filtration, the filtrate is evaporated to dryness and the residual oil is dissolved in THF (50 mL). Sodium borohydride (2 g) and boron trifluoride etherate (2 mL) are added and then the mixture is heated at reflux for 18 hours. The solvent is then removed by evaporation under reduced pressure and the residue is taken up in water (30 mL), adjusted to slightly acid pH by adding 6N HCl and then extracted with chloroform (3×30 mL). The organic phases are collected and dried over anhydrous MgSO4. After filtration, the filtrate is evaporated to dryness and the expected compound is obtained in the form of an oil used directly in the next Step.

reactant | 2-amino-5-methoxybenzenesulphonamide | 4.9 mmol | NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H10N2O3S
reactant | (1-ethoxycyclopropyloxy)trimethylsilane | 4 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 2-cyclopropylamino-5-methoxybenzenesulphonamide | C1(CC1)NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C10H14N2O3S
